US08202885B2
A mixture of 227 mg of rac-(1R*,2R*,4R*)-2-(2-hydroxy-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol, 195 mg of Ts-Cl, 0.16 mL of NEt3 and 11 mg of DMAP in 3 mL toluene was stirred overnight at rt. The reaction mixture was quenched with water, the organic phase was separated, washed with brine and evaporated. The residue was purified by CC with Hept-EtOAc (6:4) to yield 0.32 g of oily rac-toluene-4-sulfonic acid (1R*,2R*,4R*)-2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl ester as yellowish oil.

reactant | rac-(1R*,2R*,4R*)-2-(2-hydroxy-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 227 mg | OCCC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)O | C16H20O2
reactant | Ts-Cl | 195 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NEt3 | 0.16 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 11 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | rac-toluene-4-sulfonic acid (1R*,2R*,4R*)-2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl ester | 0.32 g | O[C@@]1([C@H]2C=C([C@@H](C1)CC2)C2=CC=CC=C2)CCOS(=O)(=O)C2=CC=C(C=C2)C | C23H26O4S
